US07968538B2
t-Butyl 4-(3-(3-bromobenzylamino)-4-nitrophenyl)piperazine-1-carboxylate
N-(3-Bromobenzyl)-5-fluoro-2-nitrobenzenamine (624 mg, 2.2 mmol), t-butyl piperazine-1-carboxylate (414 mg, 2.2 mmol), N,N-diisopropylethylamine (287 mg, 2.2 mmol) were stirred at 80° C. in dry acetonitrile (10 mL) for 16 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 25% ethyl acetate in hexanes to afford the title compound (316 mg, 32% yield). 1H NMR (400 MHz, CDCl3): δ 8.77 (s, 1H), 8.05 (d, 1H), 7.32-7.21 (m, 4H), 6.18 (d, 1H), 5.72 (s, 1H), 4.46 (d, 2H), 3.49 (m, 4H), 3.27 (m, 4H), 1.45 (s, 9H); MS (ESI) m/z: Calculated for C22H27ClN4O4Na 469.16; Observed: 469.4 (M++Na).

reactant | N-(3-Bromobenzyl)-5-fluoro-2-nitrobenzenamine | 2.2 mmol, 624 mg | BrC=1C=C(CNC2=C(C=CC(=C2)F)[N+](=O)[O-])C=CC1 | C13H10BrFN2O2
reactant | t-butyl piperazine-1-carboxylate | 2.2 mmol, 414 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 2.2 mmol, 287 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | t-Butyl 4-(3-(3-bromobenzylamino)-4-nitrophenyl)piperazine-1-carboxylate | 316 mg, 32% yield | BrC=1C=C(CNC=2C=C(C=CC2[N+](=O)[O-])N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C22H27BrN4O4
